US06740655B2
To a stirred suspension of cerium (III) chloride (4.7 g, 15.0 mmol) in tetrahydrofuran (30 mL) at 0° C. was added drop-wise a solution of 3.0 M methyl magnesium chloride in tetrahydrofuran (6.0 mL, 19 mmol). The reaction mixture was stirred at 0° C., after which a solution of 4-acetyl-2-fluorobenzonitrile (2.5 g, 15.0 mmol) in tetrahydrofuran (20 mL) was added dropwise. The reaction mixture was stirred at 0° C. for 1 hour and then quenched with 5 mL of 2N acetic acid added drop-wise. The reaction mixture was thereafter poured into water (200 mL), acidified to a pH of 2 with 2N acetic acid, and then extracted with ethyl acetate (2×200 mL). The organic extracts were combined, washed with water and brine, dried over magnesium sulfate (MgSO4), and then concentrated to give an oil. The oil product was purified using chromatography on silica gel, eluting with ethyl acetate/hexane (1:1) to yield 1.95 g of 2-fluoro-(1-hydroxy-1-methyl-ethyl)-benzonitrile final product as an oil.

reactant | cerium (III) chloride | 15.0 mmol, 4.7 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | methyl magnesium chloride | 3.0 M | C[Mg]Cl
reactant | 4-acetyl-2-fluorobenzonitrile | 15.0 mmol, 2.5 g | C(C)(=O)C1=CC(=C(C#N)C=C1)F | C9H6FNO
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 19 mmol, 6.0 mL | O1CCCC1 | C4H8O
product | 2-fluoro-(1-hydroxy-1-methyl-ethyl)-benzonitrile | 1.95 g | FC1=C(C#N)C=CC=C1C(C)(C)O | C10H10FNO
